US06861163B2
1-Bromopyrene (2.00 g, 7.12 mmol) was dissolved in anhydrous THF (150 ml) and anhydrous ether (150 ml). The light yellow solution was cooled to −78° C. in nitrogen. n-Butyllithium (4.9 ml, 7.83 mmol) was slowly dripped into the solution. At this time, the solution became murky. This mixture was kept at −78° C. for ten minutes, 0° C. for ten minutes, and then −78° C. for thirty minutes. Then, triisopropyl borate (4.93 ml, 21.36 mmol) was slowly dripped into the solution, and the mixture was kept at −78° C. for thirty minutes. Finally, the mixture underwent reaction at room temperature for 1.5 days. Next, water was added into the reaction mixture, and the resulting mixture was stirred vigorously for one hour. The water layer and the organic layer were separated, the water layer was then extracted by ethyl ether (2×25 ml), and the organic layer was water washed (2×50 ml). The combined organic solution was contact with MgSO4 to remove water, then filtered, and concentrated on a rotary evaporator to obtain a pyreneboronic acid solid product.

reactant | 1-Bromopyrene | 7.12 mmol, 2.00 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | ether | 150 ml | CCOCC | C4H10O
reactant | n-Butyllithium | 7.83 mmol, 4.9 ml | C(CCC)[Li]
reactant | triisopropyl borate | 21.36 mmol, 4.93 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | pyreneboronic acid | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
